US04263293
(i) 2-Carboxy-4-methylpentanoic acid
A solution of 91.1 g of 2-(ethyloxycarbonyl)-4-methylpentanoic acid, ethyl ester in 300 ml of methanol is treated for 6 hours at 80° C. with 400 ml of 10% sodium hydroxide. The solution is concentrated in vacuo to 400 ml and acidified with 10% hydrochloric acid. The product is extracted with ethyl acetate to yield 67.6 g of the title compound, which crystallizes on standing. Recrystallization from ethyl acetate-hexane yields the title compound, melting point 102°-105° C.

reactant | 2-(ethyloxycarbonyl)-4-methylpentanoic acid, ethyl ester | 91.1 g | C(C)OC(=O)C(C(=O)OCC)CC(C)C | C11H20O4
reactant | sodium hydroxide | 400 ml | [OH-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
product | 2-Carboxy-4-methylpentanoic acid | 67.6 g | C(=O)(O)C(C(=O)O)CC(C)C | C7H12O4
